US07368578B2
A mixture of ethyl 5-formylthiophene-2-carboxylate (14.6 g), 2,3-butanedione-2-oxime (8.02 g) and 4N hydrogenchloride-ethyl acetate (300 mL) was stirred at room temperature for 15 hrs. The reaction mixture was concentrated, diethyl ether was added to the residue to allow precipitation of crystals, and crystals were collected by filtration. A mixture of the obtained crystal, tetrahydrofuran (500 mL) and thionyl chloride (14.16 g) was heated under reflux for 2 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:6, v/v) to give ethyl 5-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)thiophene-2-carboxylate as colorless crystals (5.41 g, yield 24%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 101-102° C.

reactant | ethyl 5-formylthiophene-2-carboxylate | 14.6 g | C(=O)C1=CC=C(S1)C(=O)OCC | C8H8O3S
reactant | 2,3-butanedione-2-oxime | 8.02 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 300 mL | Cl.C(C)(=O)OCC
product | ethyl 5-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)thiophene-2-carboxylate | 5.41 g, yield 24% | ClCC=1N=C(OC1C)C1=CC=C(S1)C(=O)OCC | C12H12ClNO3S
